US08541448B2
Intermediate 10.2: 1-(4-bromophenyl)-2-((2,4-dichlorobenzyl)(methyl)amino)ethanone
Into a 250-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 2-bromo-1-(4-bromophenyl)ethanone (9.3 g, 33.45 mmol, 1.00 equiv) in dioxane (100 mL), triethylamine (5.0 g, 1.50 equiv), and (2,4-dichlorophenyl)-N-methylmethanamine (6.4 g, 33.68 mmol, 1.00 equiv). The resulting solution was stirred for 2 h at 25° C. The solids were filtered out. The filtrate was used for next step directly.

reactant | 2-bromo-1-(4-bromophenyl)ethanone | 33.45 mmol, 9.3 g, 1.00 equiv | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
reactant | triethylamine | 5.0 g, 1.50 equiv | C(C)N(CC)CC | C6H15N
reactant | (2,4-dichlorophenyl)-N-methylmethanamine | 33.68 mmol, 6.4 g, 1.00 equiv | ClC1=C(C=CC(=C1)Cl)CNC | C8H9Cl2N
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 1-(4-bromophenyl)-2-((2,4-dichlorobenzyl)(methyl)amino)ethanone | BrC1=CC=C(C=C1)C(CN(C)CC1=C(C=C(C=C1)Cl)Cl)=O | C16H14BrCl2NO
